US06893650B1
N-{4-Amino-2,5-xylyl}phthalimide
To a solution of p-xylylenediamine (1.0 g) in N-methylpyrrolidinone was added phthalic anhydride (1.1 g) in N-methylpyrrolidinone (10 ml). The mixture was heated at 150° C. for 4 hours. On cooling, the mixture was poured into water and then filtered. The cake was washed with water and dried, m.p. 167-9° C.

reactant | p-xylylenediamine | 1.0 g | C1(=CC=C(C=C1)CN)CN | C8H12N2
reactant | phthalic anhydride | 1.1 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
reactant | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | N-{4-Amino-2,5-xylyl}phthalimide | NC1=CC(=C(C=C1C)N1C(C=2C(C1=O)=CC=CC2)=O)C | C16H14N2O2
